US08202865B2
Step 1: 3-[(2-methoxyethoxy)methyl]benzonitrile
A solution of 3-(bromomethyl)benzonitrile (1 g, 5.1 mmol) in 2-methoxyethanol (10 mL) and n-ethyldiisopropylamine (0.89 mL, 5.1 mmol) was heated under microwave irradiations for 2 hours at 150° C. After this time, reaction mixture was diluted with EtOAc (200 mL), washed with water and brine to give the title compound as a colorless oil (800 mg, 81%). 1H NMR (DMSO-d6, 300 MHz) δ 7.76-7.74 (m, 2H), 7.68-7.65 (m, 1H), 7.59-7.54 (m, 1H), 4.54 (s, 2H), 3.59-3.56 (m, 2H), 3.51-3.47 (m, 2H), 3.25 (s, 3H). HPLC (Method A) Rt 3.09 min (Purity: 82.9%).

reactant | 3-(bromomethyl)benzonitrile | 5.1 mmol, 1 g | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
reactant | n-ethyldiisopropylamine | 5.1 mmol, 0.89 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-methoxyethanol | 10 mL | COCCO | C3H8O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 3-[(2-methoxyethoxy)methyl]benzonitrile | 800 mg, 81% | COCCOCC=1C=C(C#N)C=CC1 | C11H13NO2
